US05854247
A mixture of 4-nitrobenzyl bromide (100.0 g 0.46 mol), sodium sulphite (84.8g, 0.67 mol) and water (316 ml) was heated at 90° C. for 5 h. The solution was cooled and the resultant solid filtered and washed with diethyl ether. The product was dried under vacuum at 60° C. (95 g, 86%). Phosphorus pentachloride (78 g, 0.375 mol ) was added to sodium 4-nitrobenzyl sulphonate (60 g, 0.25 mol) and the mixture heated at 90° C. for 2 h. The mixture was cooled and volatile material removed under vacuum. The residue was dissolved in dichloromethane (500 ml) and water (150 ml). The organic layer was separated, dried over anhydrous sodium sulphate, filtered and evaporated to give 4-nitrobenzyl sulphonyl chloride (48.9 g, 83%) which was pure by 1H NMR. Methylamine gas was bubbled through a solution of 4-nitrobenzyl sulphonyl chloride (37.9 g, 0.16 mol), in dichloromethane (325 ml), until uptake had ceased (0.5 h). The resulting solid was filtered, washed with H2 and dried under vacuum to give the title-sulphonamide (32.5 g, 88%), δ(250MHz, D6 -DMSO) 2.61 (3H, s, Me), 4.55 (2H, s, CH2), 7.06 (1H, s, NH), 7.66 (2H, d, J=8.7Hz, Ar-H), 8.25 (2H, d, J=8.7Hz, Ar-H).

reactant | 4-nitrobenzyl bromide | 0.46 mol, 100.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium sulphite | 0.67 mol, 84.8g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Phosphorus pentachloride | 0.375 mol, 78 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium 4-nitrobenzyl sulphonate | 0.25 mol, 60 g | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)[O-])C=C1.[Na+]
solvent | water | 316 ml | O | H2O
product | 4-nitrobenzyl sulphonyl chloride | 48.9 g, 83% | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)Cl)C=C1 | C7H6ClNO4S
